US09284283B2
Allyl 1-(3-(5-(((9H-fluoren-9-yl)methoxy)carbonylamino)pentylamino)-3-oxopropyl)cyclopentanecarboxylate (360 mg, 0.676 mmol) was dissolved in DMF (15 mL) and cooled to 0° C. under nitrogen. Tetratritylpalladium (122 mg, 0.113 mmol) and morpholine (941 mg, 10.8 mmol) were added and the mixture stirred for 2 h. Solvent was removed under reduced pressure and material was purified by reverse-phase chromatography. Recovered 1-(3-(5-(((9H-fluoren-9-yl)methoxy)carbonylamino)pentylamino)-3-oxopropyl)cyclopentanecarboxylic acid (54.4 mg, 0.110 mmol, 16.34% yield).

reactant | Allyl 1-(3-(5-(((9H-fluoren-9-yl)methoxy)carbonylamino)pentylamino)-3-oxopropyl)cyclopentanecarboxylate | 0.676 mmol, 360 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCCCCCNC(CCC1(CCCC1)C(=O)OCC=C)=O | C32H40N2O5
reactant | morpholine | 10.8 mmol, 941 mg | N1CCOCC1 | C4H9NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Tetratritylpalladium | 0.113 mmol, 122 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(3-(5-(((9H-fluoren-9-yl)methoxy)carbonylamino)pentylamino)-3-oxopropyl)cyclopentanecarboxylic acid | 0.110 mmol, 54.4 mg, 16.34% yield | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCCCCCNC(CCC1(CCCC1)C(=O)O)=O | C29H36N2O5
